US08633186B2
2-Amino-6-(3-methylbut-2-en-2-yl)benzonitrile
Prepared as in Example 1a from 2-amino-6-bromobenzonitrile and 3-Methyl-2-buten-2-ylboronic acid as an orange oil. MS 187 (MH+).

reactant | 2-amino-6-bromobenzonitrile | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
reactant | 3-Methyl-2-buten-2-ylboronic acid | CC(=C(C)B(O)O)C | C5H11BO2
product | 2-Amino-6-(3-methylbut-2-en-2-yl)benzonitrile | NC1=C(C#N)C(=CC=C1)C(C)=C(C)C | C12H14N2
